US07547710B2
To a solution of 2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}-N-methoxy-N-methylbenzamide (2.0 g, 6.4 mmol) in diethyl ether (50 ml) was added dropwise 1.0 M solution of m-tolylmagnesium bromide in tetrahydrofuran (30 ml, 30 mmol) under ice-cooling over 30 min. Ice water (250 g) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give (2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}phenyl)(3-methylphenyl)methanone as a mixture. To a solution of the obtained mixture (1.4 g) of (2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}phenyl)(3-methylphenyl)methanone and 5-methyl-3-oxohexanenitrile (0.60 g, 4.7 mmol) in toluene (50 ml) was added methanesulfonic acid (0.38 g, 4.0 mmol), and the mixture was heated under reflux for 6 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and saturated aqueous sodium hydrogen carbonate (100 ml), and the organic layer was washed with saturated brine (50 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained crude crystals were recrystallized from n-hexane-ethyl acetate to give 6-hydroxy-2-isobutyl-4-(3-methylphenyl)quinoline-3-carbonitrile (0.73 g, yield 36%) as pale-yellow crystals.

reactant | 2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}-N-methoxy-N-methylbenzamide | 6.4 mmol, 2.0 g | NC1=C(C(=O)N(C)OC)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C15H26N2O3Si
reactant | m-tolylmagnesium bromide | C1(=CC(=CC=C1)[Mg]Br)C
reactant | tetrahydrofuran | 30 mmol, 30 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (2-amino-5-{[tert-butyl(dimethyl)silyl]oxy}phenyl)(3-methylphenyl)methanone | NC1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)C(=O)C1=CC(=CC=C1)C | C20H27NO2Si
